US08357707B2
f) 1-(5-Methoxymethoxy-pyridin-2-yl)-ethanone
NaH was added to a solution of 1 g (7.29 mmol) 1-(5-hydroxy-pyridin-2-yl)-ethanone (Anichem) in 15 ml DMF at 0° C. After stirring this mixture for 1 h, 0.78 ml (8.75 mmol) MOMCl was added at 0° C. Then the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was poured on water and extracted 2 times with EtOAc. The combinded organic layers were washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel (EtOAc, heptane) to yield 1.12 g of the pure title compound as an oil. LCMS (method L): tR=0.66 min, M+H=182.

reactant | NaH | [H-].[Na+]
reactant | 1-(5-hydroxy-pyridin-2-yl)-ethanone | 7.29 mmol, 1 g | OC=1C=CC(=NC1)C(C)=O | C7H7NO2
reactant | MOMCl | 8.75 mmol, 0.78 ml | C(OC)Cl | C2H5ClO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-(5-Methoxymethoxy-pyridin-2-yl)-ethanone | 1.12 g | COCOC=1C=CC(=NC1)C(C)=O | C9H11NO3
